US20010046991A1
1.49 ml (10 mmol) of ethyl 2-aminobenzoate and 1.73 ml (10 mmol) of 3,3,5,5-tetramethyl-cyclohexanone were mixed with 20 ml of toluene. 20 mg (0.1 mmol) of para-toluenesulfonic acid was added, and the reaction mixture was refluxed with continuous removal of the water produced in the reaction. After 9 h, toluene was removed under vacuum, and the residue was refluxed in 10 ml of phenyl ether. After cooling, the precipitate was filtered and washed with diethyl ether to obtain 1,1,3,3-tetramethyl-1,2,3,4-tetrahydro-9(10H)-acridone (18%). Following the procedure of Step 3 in Example 1, but substituting 1,1,3,3-tetramethyl-1,2,3,4-tetrahydro-9(10H)acridone for 9-(10H)acridone, gave 9-chloro-1,1,3,3-tetramethyl-1,2,3,4-tetrahydroacridine (21%), which was reacted with 4-(4-methylpiperazin-1-yl)aniline (according to the procedure of Step 4 in Example 1), to afford the title compound (3%, overall yield 0,1%).

reactant | ethyl 2-aminobenzoate | 10 mmol, 1.49 ml | NC1=C(C(=O)OCC)C=CC=C1 | C9H11NO2
reactant | 3,3,5,5-tetramethyl-cyclohexanone | 10 mmol, 1.73 ml | CC1(CC(CC(C1)(C)C)=O)C | C10H18O
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | para-toluenesulfonic acid | 0.1 mmol, 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 1,1,3,3-tetramethyl-1,2,3,4-tetrahydro-9(10H)-acridone | 18% | CC1(CC(CC=2NC3=CC=CC=C3C(C12)=O)(C)C)C | C17H21NO
